US04728653
To a stirred solution of 6-(2,4-dimethylimidazol-1-yl)-3,4-dihydro-2-(1H)-quinolone (0.2 g) in concentrated sulphuric acid (5 cm3) was added bromine (0.045 cm3) and silver sulphate (0.186 g). The mixture was stirred at room temperature for 16 hours, poured onto ice (20 g.) and the mixture brought to pH 10 with aqueous 5M sodium hydroxide solution and extracted with dichloromethane (100 cm3). The organic extract was dried (MgSO4), filtered and evaporated in vacuo to yield a white solid. This solid was recrystallised from ethyl acetate to give 8-bromo-6-(2,4-dimethylimidazol-1-yl)-3,4-dihydro-2-(1H)-quinolone (0.15 g), m.p. 242°.

reactant | 6-(2,4-dimethylimidazol-1-yl)-3,4-dihydro-2-(1H)-quinolone | 0.2 g | CC=1N(C=C(N1)C)C=1C=C2CCC(NC2=CC1)=O | C14H15N3O
reactant | bromine | 0.045 cm3 | BrBr | Br2
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | sulphuric acid | 5 cm3 | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulphate | 0.186 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 8-bromo-6-(2,4-dimethylimidazol-1-yl)-3,4-dihydro-2-(1H)-quinolone | 0.15 g | BrC=1C=C(C=C2CCC(NC12)=O)N1C(=NC(=C1)C)C | C14H14BrN3O
